US04379921
The bromination of 1-(2,4-dichlorophenyl)-1-p-toluenesulfonyl-4,4-dimethylpentan-3-one was carried out in the same manner as that of Example 3 but using 25 g of 1-(2,4-dichlorophenyl)-1-p-toluenesulfonyl-4,4-dimethyl-3-one, 9.2 g of bromine, 200 ml of acetic acid and 300 ml of chloroform, and 29 g of 2-bromo-1-(2,4-dichlorophenyl)-4,4-dimethyl-1-p-toluenesulfonylpentan-3-one was obtained.

reactant | 1-(2,4-dichlorophenyl)-1-p-toluenesulfonyl-4,4-dimethylpentan-3-one | ClC1=C(C=CC(=C1)Cl)C(CC(C(C)(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)C | C20H22Cl2O3S
reactant | bromine | 9.2 g | BrBr | Br2
reactant | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-1-(2,4-dichlorophenyl)-4,4-dimethyl-1-p-toluenesulfonylpentan-3-one | 29 g | BrC(C(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)Cl)Cl)C(C(C)(C)C)=O | C20H21BrCl2O3S
